US04556672
Reaction of 3,4-difluoroaniline with chloral hydrate and hydroxylamine followed cyclization with sulfuric acid, in a manner analogous to Parts A and B of Preparation 9, gave 5,6-difluoroisatin, which was reacted with hydrazine hydrate followed by sodium methoxide in ethanol, in a manner analogous to Preparation 7, to give the title compound, m.p. 187°-190° C.

reactant | 3,4-difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | chloral hydrate | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | hydroxylamine | NO | H3NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5,6-difluoroisatin | FC=1C=C2C(C(NC2=CC1F)=O)=O | C8H3F2NO2
